Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
Demerol
 
Attending: ___.
 
Chief Complaint:
back pain, b/l leg weakness L>R s/p fall
 
Major Surgical or Invasive Procedure:
N/A

 
History of Present Illness:
___ with multiple falls at home, in setting of leg weakness, 
found to have L3 compression fracture with cord compression, 
transferred her for spine evaluation ___/- rehab placement.

Patient reports three falls in the past week, in the setting of 
bilateral leg weakness, progressively worsening since fall last 
month. Most recent fall was yesterday. Ambulating to bathroom 
with walker, when left leg gave way underneath her, and she 
fell, striking her head on the floor, with some blood on right 
parietal area. Denies LOC. Pushed her lifeline alert button and 
was brought to ___. CT head and C-spine were 
negative for acute injury. MRI lumbar spine showed acute 70% 
collapse of L3 vertebral body with marked posterior superior 
bone retropulsion, causing moderate spinal stenosis. Patient was 
transferred to ___ for further evaluation.

On further questioning, patient notes bilateral leg weakness, 
worse on left than right, since her original fall last month. 
Occasional numbness of both legs. Also reports lower back pain 
which radiates posteriorly down left leg, as far as her foot. 
Denies saddle anesthesia and bladder/bowel incontinence. 

Family and PCP are concerned patient is able to care for herself 
at home and feel she requires 24hr care. Feel she needs rehab.

 
Past Medical History:
HTN
HLD
 
Social History:
SH: Denies tobacco, alcohol, illicit drug use. 
 
Physical Exam:
PE: 
VS97.8 PO 130 / 69 L Lying 80 18 98 Ra 

NAD, A&Ox4
nl resp effort
RRR
  
Sensory:
___    
     L2     L3      L4         L5        S1          S2
   (Groin) (Knee) (Med Calf) (Grt Toe) (Sm Toe) (Post Thigh)
R    SILT   SILT    SILT       SILT     SILT       SILT 
L    SILT   SILT    SILT       SILT     SILT       SILT 

Motor:
___  Flex(L1) Add(L2) Quad(L3)  TA(L4) ___ ___
R      5       5       5         5      5      5         5      
L      4+      4+      4+        5      5      5         5

              
Clonus: No beats

 
Pertinent Results:
___ 12:46AM BLOOD WBC-10.0 RBC-3.20* Hgb-10.4* Hct-31.5* 
MCV-98 MCH-32.5* MCHC-33.0 RDW-12.8 RDWSD-45.6 Plt ___
___ 12:46AM BLOOD Neuts-74.9* Lymphs-14.3* Monos-9.0 
Eos-0.6* Baso-0.7 Im ___ AbsNeut-7.50* AbsLymp-1.43 
AbsMono-0.90* AbsEos-0.06 AbsBaso-0.07
___ 12:46AM BLOOD Plt ___
___ 12:46AM BLOOD Glucose-102* UreaN-9 Creat-0.7 Na-137 
K-4.0 Cl-102 HCO3-23 AnGap-12
___ 12:46AM BLOOD Calcium-9.1 Phos-2.9 Mg-1.8
 
Brief Hospital Course:
Patient was admitted to the ___ Spine Surgery Service and 
treated non-operatively in a brace. ___ were used for 
DVT prophylaxis. Pain was controlled with oral pain medications. 
Diet was advanced as tolerated. She was voiding independently. 
Physical therapy and Occupational therapy were consulted for 
mobilization OOB to ambulate and ADL's.Hospital course was 
otherwise unremarkable.On the day of discharge the patient was 
afebrile with stable vital signs, comfortable on oral pain 
control and tolerating a regular diet.
 
Medications on Admission:
Amlodipine 5 mg daily
Clopidogrel 75 mg daily
Furosemide 20 mg daily
Gabapentin 100-200 mg nightly
Lisinopril 20 mg daily
Pravastatin 40 mg daily
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H 
may take over the counter  
2.  TraMADol ___ mg PO Q8H:PRN Pain - Moderate 
RX *tramadol 50 mg ___ tablet(s) by mouth every eight (8) 
hours Disp #*14 Tablet Refills:*0 
3.  amLODIPine 5 mg PO DAILY  
4.  Clopidogrel 75 mg PO DAILY  
5.  Furosemide 20 mg PO DAILY  
6.  Gabapentin 100-200 mg PO QHS  
7.  Lisinopril 20 mg PO BID  
8.  Pravastatin 40 mg PO QPM  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Lumbar Fracture L3 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Activity:You should not lift anything greater than 10 lbs for 2 
weeks.You will be more comfortable if you do not sit or stand 
more than~45 minutes without getting up and walking around.

•                Rehabilitation/ Physical ___ times a 
day you should go for a walk for ___ minutes as part of your 
recovery.You can walk as much as you can tolerate.Limit any kind 
of lifting.

•                Diet: Eat a normal healthy diet.You may have 
some constipation after surgery.You have been given medication 
to help with this issue.

•                Brace:You may have been given a brace.If you 
have been given a brace,this brace is to be worn when you are 
walking.You may take it off when sitting in a chair or while 
lying in bed.

•                You should resume taking your normal home 
medications.

•                You have also been given Additional Medications 
to control your pain.Please allow 72 hours for refill of 
narcotic prescriptions,so please plan ahead.You can either have 
them mailed to your home or pick them up at the clinic located 
on ___.We are not allowed to call in or fax narcotic 
prescriptions(oxycontin,oxycodone,percocet) to your pharmacy.In 
addition,we are only allowed to write for pain medications for 
90 days from the date of surgery.

•                Follow up:

                Please Call the office and make an appointment 
for 2 weeks after discharge. 

                At the 2-week visit we will take baseline X-rays 
and answer any questions.We may at that time start physical 
therapy

                We will then see you at 6 weeks from the day 
discharge. 

Please call the office if you have a fever>101.5 degrees 
Fahrenheit and/or drainage from your wound.
Physical Therapy:
1)Weight bearing as tolerated.2)Gait,balance training.3)No 
lifting >10 lbs.4)No significant bending/twisting. 
Lumbar Corset when out of bed. 
Treatments Frequency:
N/A
 
Followup Instructions:
___